US05635510
57.6 Synthesis of 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-[3-(4-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-ethanol (23 mmol) and 3-isopropoxy-benzoyl chloride (23 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(4-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-ethanol | 23 mmol | FC(C1=CC=C(C=C1)C1(CNCC1)CCO)(F)F | C13H16F3NO
reactant | 3-isopropoxy-benzoyl chloride | 23 mmol | C(C)(C)OC=1C=C(C(=O)Cl)C=CC1 | C10H11ClO2
product | 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | FC(C1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=CC=C1)OC(C)C)=O)CCO)(F)F | C23H26F3NO3
